US08426411B2
To the solution of 8-((2R,4S)-4-azido-2-ethylpyrrolidin-1-yl)-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazine (0.136 g, 0.459 mmol, prepared using S from Example #3 Step E and tert-butyl bromoacetate, E with HCl, H with (2R,4S)-4-azido-2-methylpyrrolidine (prepared from (2R,4S)-tert-butyl 4-azido-2-methylpyrrolidine-1-carboxylate as detailed in Rosen, T.; Chu, D. T. W.; Lico, I. M.; Fernandes, P. B.; Marsh, K.; Shen, L.; Cepa, V. G.; Pernet, A. G. J. Med. Chem. 1988, 31, 1598-1611, then E with HCl), OO, D with NaOH) in EtOH (15 mL), 20% palladium hydroxide on carbon (0.05 g, 0.071 mmol) was added and the reaction mixture was stirred under atmospheric pressure of hydrogen for 2 h. The catalyst was removed by filtration through a pad of Celite® and the solvent was removed under reduced pressure to yield (3S,5R)-5-ethyl-1-(3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)pyrrolidin-3-amine (0.11 g, 89%) as an off-white amorphous solid. LC/MS (Table 1, Method a) Rt=1.00 min; MS m/z 271 (M+H)+.

reactant | 8-((2R,4S)-4-azido-2-ethylpyrrolidin-1-yl)-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazine | N(=[N+]=[N-])[C@H]1C[C@H](N(C1)C1=CN=C2N1C1=C(N=C2)NC=C1)CC | C14H16N8
reactant | tert-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | HCl | Cl | ClH
reactant | (2R,4S)-4-azido-2-methylpyrrolidine | N(=[N+]=[N-])[C@H]1C[C@H](NC1)C | C5H10N4
reactant | (2R,4S)-tert-butyl 4-azido-2-methylpyrrolidine-1-carboxylate | N(=[N+]=[N-])[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C | C10H18N4O2
reactant | NaOH | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 15 mL | CCO | C2H6O
catalyst | palladium hydroxide on carbon | 0.071 mmol, 0.05 g | [OH-].[OH-].[Pd+2]
product | (3S,5R)-5-ethyl-1-(3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)pyrrolidin-3-amine | 0.11 g, 89% | C(C)[C@@H]1C[C@@H](CN1C1=CN=C2N1C1=C(N=C2)NC=C1)N | C14H18N6
